US07915270B2
4-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzonitrile
4-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzonitrile. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (53 mg, 0.080 mmol) and 4-bromobenzonitrile following General Procedure A. Flash chromatography (5-10% EtOAc/hexanes) yielded the title compound as a clear oil (30 mg, 79%): 1H NMR (CDCl3, 500 MHz) δ 7.82-7.78 (m, 4H), 7.50 (s, 1H), 7.36-7.33 (m, 2H), 7.26-7.23 (m, 3H), 4.93 (t, 1H, J=5.5 Hz), 2.67 (t, 2H, J=7.5 Hz), 2.06-1.95 (m, 2H), 1.75-1.67 (m, 2H), 1.47-1.40 (m, 6H), 0.98 (s, 9H), 0.19 (s, 3H), 0.08 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 166.7, 149.7, 143.2, 133.2, 132.4, 128.8, 128.7, 126.0, 124.8, 124.8, 119.0, 112.0, 69.1, 36.8, 36.3, 31.8, 29.6, 28.3, 26.1, 25.5, 18.6, −4.5, −4.7.

reactant | 4-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)benzonitrile | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC=C(C#N)C=C1 | C29H38N2O2Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.080 mmol, 53 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
product | 4-(2-(7-Phenylheptanoyl)oxazol-5-yl)benzonitrile | 30 mg, 79% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=C(C#N)C=C1 | C23H22N2O2
